US06017919
3-Amino-N-[2-(4-hydroxyphenyl)ethyl]phthalimide (110 mg, 0.390 mol, 1 eq) was dissolved in acetone (30 ml), and to this solution were added 1-chloro-1-pentanone (70.5 mg, 0.585 mmol, 1.5 eq) and triethylamine (0.081 ml, 0.585 mol, 1.5 eq) in this order. The mire was refluxed under heating for 30 minutes. This reaction mixture was cooled to room temperature. Ice water (10 ml) and citric acid (10 ml) were added, and the mixture was extracted twice with ethyl acetate (20 ml). The organic layers were combined, washed with saturated brine (30 ml) and dried over anhydrous sodium sulfate. After the drying agent was filtered off, the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=5/1) to give 4-[2-(1,3-dioxo4-pentanoylamino-1,3-dihydroisoindol-2-yl)ethyl]phenyl pentanoate (80.2 mg, 56.2%) as colorless crystals.

reactant | 3-Amino-N-[2-(4-hydroxyphenyl)ethyl]phthalimide | 0.390 mol, 110 mg, 1 eq | NC1=C2C(C(=O)N(C2=O)CCC2=CC=C(C=C2)O)=CC=C1 | C16H14N2O3
reactant | 1-chloro-1-pentanone | 0.585 mmol, 70.5 mg, 1.5 eq | ClC(CCCC)=O | C5H9ClO
reactant | triethylamine | 0.585 mol, 0.081 ml, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-[2-(1,3-dioxo4-pentanoylamino-1,3-dihydroisoindol-2-yl)ethyl]phenyl pentanoate | 80.2 mg, 56.2% | C(CCCC)(=O)OC1=CC=C(C=C1)CCN1C(C2=CC=CC(=C2C1=O)NC(CCCC)=O)=O | C26H30N2O5
